US06949648B2
3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
To a solution of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.0 g, 3.39 mmol) in ethanol (30 mL), 5% palladium-carbon (0.8 g, 50% hydrate) was added and the mixture was stirred at room temperature under hydrogen atmosphere for 1 hour. The solution was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure, and the residue thus obtained was purified by silica gel column chromatography (ethyl acetate:hexane=6:4) to give the title compound (380 mg, 43% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.39 mmol, 1.0 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.8 g | [C].[Pd]
product | 3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 380 mg, 43% yield | CC1=NN(C2=NC3=CC=CC=C3C=C21)C2=NC=CC=C2 | C16H12N4
